US06803362B2
(5-Chloro-1H-indol-2-yl)-(4-methyl-piperazin-1-yl)-methanone
A mixture of 5-chloroindole-2-carboxylic acid (0.234 g), HATU (0.569 g), HOAT (0.203 g) and N,N-diisopropylethylamine (0.191 mL) in DMF (0.6 mL) was treated with N-methylpiperazine (0.1 mL) stirred at ambient temperature for 48 h then concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with 1 M hydrochloric acid, saturated sodium hydrogen carbonate solution and then brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via silica gel chromatography (3-10% 2 M ammonia in methanol/dichloromethane) to give the title compound (0.18 g). 1H NMR (400 MHz, CDCl3): δ 9.60 (br s, 1H), 7.65 (d, J=1.5 Hz, 1H), 7.40 (d, J=8.6 Hz, 1H), 7.29 (d, J=2.0 Hz, 1H), 7.26 (d, 1.8 Hz, 1H), 6.76 (d, J=1.5 Hz, 1H), 4.0 (br m, 4H), 2.56 (t, J=5.1 Hz, 4H), 2.41 (s, 3H). Analysis: Calc'd for C14H16ClN3O; C, 60.54; H, 5.81; N, 15.13; Found: C, 59.99; H, 5.94; N, 18.87.

reactant | 5-chloroindole-2-carboxylic acid | 0.234 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | HATU | 0.569 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 0.203 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N,N-diisopropylethylamine | 0.191 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpiperazine | 0.1 mL | CN1CCNCC1 | C5H12N2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | (5-Chloro-1H-indol-2-yl)-(4-methyl-piperazin-1-yl)-methanone | 0.18 g | ClC=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)C | C14H16ClN3O
